US04800208
(5,7-dichlorobenzofuran-2-yl)(p-chlorophenyl)methylchloride
To 0.35 mole of thionylchloride in 300 ml of cyclohexane, 0.31 mole of (5,7-dichlorobenzofuran-2-yl)(p-chlorophenyl)carbinol are portions-like added followed by 3-hour agitation at ambient temperature; then the solution is concentrated, filtered out and crystallized from cyclohexane: m.p. 72°-74° C.

reactant | thionylchloride | 0.35 mole | S(=O)(Cl)Cl | Cl2OS
reactant | (5,7-dichlorobenzofuran-2-yl)(p-chlorophenyl)carbinol | 0.31 mole | ClC=1C=C(C2=C(C=C(O2)C(O)C2=CC=C(C=C2)Cl)C1)Cl | C15H9Cl3O2
solvent | cyclohexane | 300 ml | C1CCCCC1 | C6H12
product | (5,7-dichlorobenzofuran-2-yl)(p-chlorophenyl)methylchloride | ClC=1C=C(C2=C(C=C(O2)C(C2=CC=C(C=C2)Cl)Cl)C1)Cl | C15H8Cl4O
